### ISSUE TITLE
Type error in simp

### ISSUE THREAD

**Issue by BrunoDutertre** [leanprover/lean4#12398]
### Prerequisites

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

On the `test` theorem below, `simp` produces this error:
```
Application type mismatch: The argument
  congrArg is_nnf to_nnf.eq_7
has type
  TT.Not.to_nnf.is_nnf = FF.is_nnf
but is expected to have type
  ?p = True
in the application
  of_eq_true (congrArg is_nnf to_nnf.eq_7)
``` 

Here's the input: 
```
inductive PFormula (α: Type): Type where
  | And: Array (PFormula α) → PFormula α
  | Or: Array (PFormula α) → PFormula α
  | Not: (PFormula α) → PFormula α
  | Atom: α → PFormula α
  | FF: PFormula α
  | TT: PFormula α

namespace PFormula

@[simp]
def is_atom (f: PFormula α): Prop :=
  match f with
  | .Atom _ => True
  | _ => False

def is_nnf (f: PFormula α): Prop :=
  match f with
  | .And a | .Or a => all_nnf a
  | .Not g => g.is_atom
  | .Atom _ | .TT | .FF => True
where
  all_nnf (a: Array (PFormula α)): Prop := ∀ i, (h: i < a.size) → a[i].is_nnf

def to_nnf (f: PFormula α): PFormula α :=
  match f with
  | .And a => And (a.mapFinIdx (fun i _ _ => a[i].to_nnf))
  | .Or a => Or (a.mapFinIdx (fun i _ _ => a[i].to_nnf))
  | .Not g =>
    match g with
    | .And a => Or (a.mapFinIdx
        (fun i _ _ =>
          have : sizeOf a[i] < sizeOf a := by simp
          (Not a[i]).to_nnf))
    | .Or a => And (a.mapFinIdx
        (fun i _ _ =>
          have : sizeOf a[i] < sizeOf a := by simp
          (Not a[i]).to_nnf))
    | .Not h => h.to_nnf
    | .Atom x => Not (.Atom x)
    | .TT => .FF
    | .FF => .TT
  | g => g

theorem test: (TT: PFormula α).Not.to_nnf.is_nnf := by
  simp [is_nnf, to_nnf]

end PFormula
```

**Expected behavior:** 

Close the goal. This used to work before 4.27.0.

### Versions

"4.27.0"

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by leodemoura** [comment]
Temporary workaround
```lean
theorem test: (TT: PFormula α).Not.to_nnf.is_nnf := by
  simp -implicitDefEqProofs only [to_nnf, is_nnf]
```

It will be fixed.

**Comment by nomeata** [comment]
Proper fix underway in #12429.

**Comment by BrunoDutertre** [comment]
Thanks.
